US05112818
To a stirred mixture of molecular sieves dried DMSO (15.0 ml, 212 mmol) and dichloromethane (1.24l ) at -78° C. was added oxalyl chloride (10.0 ml, 114 mmol) dropwise over 5 minutes and stirring was continued for additional 10 minutes. To this solution was added a mixture of 1-(4-nitrobenzyloxycarbonyl) -2-hydroxymethyl-4-(tertbutyldimethylsiloxy) pyrrolidine (31.0 g, 75.6 mmol) and CH2Cl2 (155 ml) dropwise over 15 minutes and the stirring was continued for 30 minutes at the same temperature. After addition of Et3N (52.5 ml, 377 mmol), removing of cold bath to warm to room temperature, washed with aqueous saturated NaHCO3 (300 ml), dried (MgSO4) of organic portion and concentrated in vacuo to afford the oily product which became solid after storage at room temperature. This crystalline product was washed with diethyl ether-hexane (1:10), collected by filtration and dried to give (2S, 4R)-4-tert-butyl-dimethylsiloxy-2-formyl-N-(4-nitrobenzyloxycarbonyl)pyrrolidine (29.7 g, 96% yield).

reactant | DMSO | 212 mmol, 15.0 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 114 mmol, 10.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-nitrobenzyloxycarbonyl) -2-hydroxymethyl-4-(tertbutyldimethylsiloxy) pyrrolidine | 75.6 mmol, 31.0 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2C(CC(C2)O[Si](C)(C)C(C)(C)C)CO)C=C1 | C19H30N2O6Si
reactant | Et3N | 377 mmol, 52.5 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 155 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 1.24l | ClCCl | CH2Cl2
product | (2S, 4R)-4-tert-butyl-dimethylsiloxy-2-formyl-N-(4-nitrobenzyloxycarbonyl)pyrrolidine | 29.7 g, 96% yield | O([Si](C)(C)C(C)(C)C)[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=O | C19H28N2O6Si
